Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg edema, erythema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo M w PSHx significant with coronary bypass 
___ and PVD who is  status post b/l femorofemoral bypass ___ 
and R fem–pop bypass ___ presents with fevers, emesis, and 
serosanguineous drainage from his popliteal incision. He had 
been recovering well until 2 days ago when developed increased 
swelling in his leg. Overnight last night he noted  subjective 
fever symptoms, chills, nausea, emesis, and increasing pain at 
the popliteal incision. This morning he reports persistent 
chills and drainage from his incision as well as increased 
erythema throughout his leg and diffuse swelling.  He presented 
to ___ and was sent to our emergency room and for further 
evaluation. At the ED he received tylenol and ceftriaxone for 
possible wound infection. He had a duplex study at OS___ which 
demonstrated a patent graft and no evidence of DVT.  
 
Past Medical History:
CAD, HTN
 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
97.7 PO, 154/63, 56, 18, 96% RA
General: Mr. ___ is a pleasant, well developed male in no 
apparent distress.
HEENT: Head is atraumatic, normocephalic.  Mucous membranes are 
moist.  Sclerae are anicteric. Neck is supple. Trachea is 
midline.  No JVD.
HEART: Normal S1, S2. No clicks, murmurs or rubs
LUNGS: Clear to auscultation
ABDOMEN: Soft, non tender.  Bowel sounds in 4 quadrants
LOWER EXTREMITIES: Bilateral femoral incisions well approximated 
and well healing.  There is no tenderness or erythema.  Femoral 
pulses palpable.  I cannot appreciate pulses distal to this.  
There are bilateral ___ and DP signals present. The right medial 
leg incision is well approximated with staples, clean and dry.  
There is no foul odor, tenderness, drainage, surrounding 
erythema.  Skin otherwise intact.  There is no cyanosis.  2+ 
edema of right lower extremity. 1+ edema of left ankle.  Sensory 
and motor exam grossly intact.  
 
Pertinent Results:
___ 05:20AM BLOOD WBC-7.2 RBC-3.85* Hgb-11.7* Hct-36.7* 
MCV-95 MCH-30.4 MCHC-31.9* RDW-14.3 RDWSD-49.7* Plt ___
___ 07:45PM BLOOD Neuts-81.6* Lymphs-7.1* Monos-10.4 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-12.20* AbsLymp-1.06* 
AbsMono-1.55* AbsEos-0.02* AbsBaso-0.03
___ 05:20AM BLOOD Glucose-98 UreaN-15 Creat-0.9 Na-144 
K-4.6 Cl-106 HCO3-25 AnGap-___ year old male with PAD status post fem-fem (___) and right 
fem-pop bypass (___) transferred from OSH with fevers, emesis, 
and serosanguineous drainage and increased edema from his 
popliteal incision. He had received one dose of Ceftriaxone in 
___.

On admission ___, started on Vanc, Cipro, Flagyll. WBC count 
trended downwards and clincial exam improved. On ___, pt 
transitioned to 2-week course of PO Augmentin.
Aside from Augmentin, no medication changes were deliberate.  On 
___, pt was hemodynaamically stable without signs or symptoms 
of infection, ambulating ad lib and tolerating activity well. He 
was tolerating regular diet and voiding sufficient amounts of 
clear yellow urine without difficulty.  He had a bowel movement.

Discharge teaching reviewed with patient and he demonstrated a 
good understanding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Diltiazem Extended-Release 240 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*26 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Clopidogrel 75 mg PO DAILY  
6.  Diltiazem Extended-Release 240 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Peripheral arterial disease s/p femorofemoral bypass ___ and R 
fem–pop bypass ___ complicated by infection along popliteal 
incision

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital with an infection in the 
bypass graft in your right leg.  You received antibiotics and 
you responded well.  You are recovering well and without any 
signs or symptoms of infection.  It is very important to 
complete your entire 2-week course of Augmentin (___).  If 
you cannot tolerate the Augmentin, or if you have any questions 
or concerns, please call Dr. ___.

You are expected to have some leg swelling.  Please elevate the 
legs intermittently throughout the day.  If your swelling is 
worse than usual, please call the clinic.  A visiting nurse will 
be helping you evaluate your incision and change your bandage 
daily.

Call the clinic with any of the below Danger signs:
Fevers
Chills
Drainage from incision
Redness surrounding incision
Fatigue
Abdominal pain
 
Followup Instructions:
___